US08609669B2
3-methyl-3-phenylbutanoyl chloride
3-Methyl-3-phenylbutanoic acid (1.78 g, 10.0 mmol) was dissolved in thionyl chloride (5 mL, 68.5 mmol). The reaction mixture was heated at reflux for 6 hours. Concentration of the reaction mixture provided the title compound (1.93 g, 98%), which was used without additional purification.

reactant | 3-Methyl-3-phenylbutanoic acid | 10.0 mmol, 1.78 g | CC(CC(=O)O)(C)C1=CC=CC=C1 | C11H14O2
reactant | thionyl chloride | 68.5 mmol, 5 mL | S(=O)(Cl)Cl | Cl2OS
product | 3-methyl-3-phenylbutanoyl chloride | 1.93 g, 98% | CC(CC(=O)Cl)(C)C1=CC=CC=C1 | C11H13ClO
